US08476280B2
Sodium hydride (1.11 g of 60% NaH in mineral oil) was added to a solution of CH3I (4.53 g) and N-(3-fluorophenyl)-3-iodobenzamide (7.26 g) in DMF (120 mL) at 0° C. under nitrogen. After being stirred at 0° C. for another 5 minutes, the reaction was stirred at room temperature under nitrogen for 4 h. The reaction was quenched by slow addition of saturated aqueous NH4Cl (120 mL), followed by addition of water (100 mL). The mixture was extracted with diethyl ether (300 mL×2). The combined ether layers were washed by water (150 mL×4) and brine (150 mL×1), dried by Na2SO4 and concentrated to give crude product (7.56 g), which was purified by column chromatography to afford N-(3-fluoro-phenyl)-3-iodo-N-methylbenzamide (5.88 g; 78%). 1H NMR (600 MHz, DMSO-d6) δ 7.64 (m, 2H), 7.28 (m, 1H), 7.24 (d, 1H, J=7.5 Hz), 7.19 (m, 1H), 7.04-6.99 (m, 3.33 (s, 3H).

reactant | Sodium hydride | 1.11 g | [H-].[Na+]
reactant | CH3I | 4.53 g | CI | CH3I
reactant | N-(3-fluorophenyl)-3-iodobenzamide | 7.26 g | FC=1C=C(C=CC1)NC(C1=CC(=CC=C1)I)=O | C13H9FINO
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
product | N-(3-fluoro-phenyl)-3-iodo-N-methylbenzamide | 5.88 g, 78% | FC=1C=C(C=CC1)N(C(C1=CC(=CC=C1)I)=O)C | C14H11FINO
